US06114537
Synthesis of 3-(4-butylpiperazinyl)-1,2,4-thiadiazolo [4,5-a]benzimidazole
A mixture of potassium carbonate (700 mg, 5.06 mmol), butyl bromide (0.43 mL, 0.4 mmol), 3-piperazinyl-1,2,4-thiadiazolo[4,5-a]benzimidazole (798 mg, 3.07 mmol) in THF (15 mL) and DMSO (2 mL) was refluxed for 16 h. The solution was evaporated to dryness, the residue partitioned between dichloromethane and water. The organic layer was washed five times with water, dried over sodium sulfate and evaporated to give an oil. This oil was mixed with acetonitrile, an insoluble solid was formed which was filtered (595 mg). The solid was purified by chromatography to give the title compound which was recrystallized from hexane (5:95) (440 mg, 41%).

reactant | potassium carbonate | 5.06 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | butyl bromide | 0.4 mmol, 0.43 mL | C(CCC)Br | C4H9Br
reactant | 3-piperazinyl-1,2,4-thiadiazolo[4,5-a]benzimidazole | 3.07 mmol, 798 mg | N1(CCNCC1)C1=NSC2=NC3=C(N21)C=CC=C3 | C12H13N5S
reactant | acetonitrile | C(C)#N | C2H3N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-(4-butylpiperazinyl)-1,2,4-thiadiazolo [4,5-a]benzimidazole | C(CCC)N1CCN(CC1)C1=NSC2=NC3=C(N21)C=CC=C3 | C16H21N5S
